US07777047B2
N-(2-{5-[(1,1-dioxidothiomorpholino)methyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)-N-methylpyridine-2-sulfonamide
To a solution of triphenylphosphine oxide (0.50 g) in dichloromethane (5 mL) was slowly added trifluoromethanesulfonic anhydride (0.25 mL) under ice-cooling, and the mixture was stirred for 20 min. A solution of N-[2-(benzylthio)-3-(1,1-dioxidothiomorpholino)propyl]-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide (0.37 g) in dichloromethane (5 mL) was added dropwise, and the mixture was stirred for 30 min under ice-cooling. The reaction solution was diluted with ethyl acetate, washed with aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=3:7-10:0). The obtained colorless oil was crystallized from ethyl acetate-hexane to give the title compound (87 mg, yield: 28%) as colorless prism crystals. MS: 520 (MH+). melting point 188-189° C.

reactant | triphenylphosphine oxide | 0.50 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 0.25 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N-[2-(benzylthio)-3-(1,1-dioxidothiomorpholino)propyl]-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide | 0.37 g | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C1=NC=CC=C1)C)CN1CCS(CC1)(=O)=O | C29H33N5O5S3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-{5-[(1,1-dioxidothiomorpholino)methyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)-N-methylpyridine-2-sulfonamide | 87 mg, yield: 28% | O=S1(CCN(CC1)CC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C1=NC=CC=C1)C)=O | C22H25N5O4S3
